US07700655B2
(2) 5-(5-Chloro-2-hydroxybenzylidene)-3-[3,5-bis(trifluoromethyl)benzyl]thiazolidine-2,4-dione (Compound No. 319)
A mixture of 3-[3,5-bis(trifluoromethyl)benzyl]thiazolidine-2,4-dione (0.20 g, 0.58 mmol), piperidine (3 drops), acetic acid (3 drops) and toluene (5 mL) was stirred at room temperature for 10 minutes, then 5-chlorosalicylaldehyde (92.3 mg, 0.59 mmol) was added and the mixture was refluxed for 1 hour. After the reaction mixture was cooled to room temperature, it was poured into water and extracted with ethyl acetate. After the ethyl acetate layer was washed with brine and dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:1→3:2) to give the title compound (173.2 mg, 62.0%) as a light yellow powder.

reactant | 3-[3,5-bis(trifluoromethyl)benzyl]thiazolidine-2,4-dione | 0.58 mmol, 0.20 g | FC(C=1C=C(CN2C(SCC2=O)=O)C=C(C1)C(F)(F)F)(F)F | C12H7F6NO2S
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | 5-chlorosalicylaldehyde | 0.59 mmol, 92.3 mg | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-(5-Chloro-2-hydroxybenzylidene)-3-[3,5-bis(trifluoromethyl)benzyl]thiazolidine-2,4-dione | 173.2 mg, 62.0% | ClC=1C=CC(=C(C=C2C(N(C(S2)=O)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C1)O | C19H10ClF6NO3S
